US05393459
0.02 mol of (S)-4-(2-fluorooctanoyloxy)-4'-hydroxybiphenyl (prepared by reaction of 4-benzoyloxy-4'-hydroxybiphenyl with (S)-2-fluorooctanoyl chloride in the presence of pyridine and subsequent removal of the benzyl group with hydrogenation), 0.02 mol of (S)-4-(2-fluorooctyloxy)benzoic acid and 0.002 mol of 4-dimethylaminopyridine are introduced into 30 ml of dichloromethane, a solution of 0.02 mol of dicyclohexylcarbodiimide is added dropwise at 10°with stirring, and the mixture is subsequently stirred at room temperature for a further 15 hours. Work-up gives (S,S)-[4-(2-fluorooctanoyloxy)-biphenyl-4'-yl] 4-(2-fluorooctyloxy)benzoate.

reactant | (S)-4-(2-fluorooctanoyloxy)-4'-hydroxybiphenyl | 0.02 mol | F[C@H](C(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)O)CCCCCC | C20H23FO3
reactant | 4-benzoyloxy-4'-hydroxybiphenyl | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C19H14O3
reactant | (S)-2-fluorooctanoyl chloride | F[C@H](C(=O)Cl)CCCCCC | C8H14ClFO
reactant | (S)-4-(2-fluorooctyloxy)benzoic acid | 0.02 mol | F[C@H](COC1=CC=C(C(=O)O)C=C1)CCCCCC | C15H21FO3
reactant | dicyclohexylcarbodiimide | 0.02 mol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 0.002 mol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (S,S)-[4-(2-fluorooctanoyloxy)-biphenyl-4'-yl] 4-(2-fluorooctyloxy)benzoate | F[C@H](COC1=CC=C(C(=O)OC2=CC=C(C=C2)C2=CC=C(C=C2)OC([C@H](CCCCCC)F)=O)C=C1)CCCCCC | C35H42F2O5
